US06858638B2
N-(3-Phenyl-1H-indazol-5-yl)piperidine-4-sulfonamide can be obtained in the following way: 1.89 g of ethanethiol, then 1.45 g of boron trifluoride etherate, are added dropwise to a solution, under argon, of 0.5 g of benzyl 4-(3-phenyl-1H-indazol-5-ylsulfamoyl)piperidine-1-carboxylate in 5 ml of dichloromethane. The reaction mixture is stirred at a temperature in the region of 20° C. for 16 hours and is then concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. The residue is taken up in 10 ml of water, basified with 5 ml of an aqueous 32% ammonium hydroxide solution, and then extracted successively with 30 ml and 15 ml of ethyl acetate. The organic extracts are pooled, dried over magnesium sulfate, filtered and then concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. The residue thus obtained is purified by chromatography on a silica column (particle size 40-63 μm), eluting successively with dichloromethane/methanol (99/1; 95/5 by volume) mixtures. The fractions containing the expected product are pooled and concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. The residue taken up in 6 ml of acetonitrile in the presence of 3S black, and dissolved under hot conditions, and the mixture is filtered under hot conditions through sintered glass and then recrystallized. The crystals are filtered off through sintered glass, washed with 2 times 0.5 ml then 1 ml of acetonitrile, partially dried and then dried under reduced pressure (3 kPa) at a temperature in the region of 50° C. 0.04 g of N-(3-phenyl-1H-indazol-5-yl)piperidine-4-sulfonamide is thus obtained in the form of a white crystalline solid melting at 230° C. (analysis: C18H20N4O2S, % calculated C, 60.65, H 5.66; N, 15.72; O, 8.98; S, 9. % found C, 60.62; H, 5.85; N, 15.39; S, 8.72).

reactant | ethanethiol | 1.89 g | C(C)S | C2H6S
reactant | boron trifluoride etherate | 1.45 g | B(F)(F)F.CCOCC
reactant | benzyl 4-(3-phenyl-1H-indazol-5-ylsulfamoyl)piperidine-1-carboxylate | 0.5 g | C1(=CC=CC=C1)C1=NNC2=CC=C(C=C12)NS(=O)(=O)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C26H26N4O4S
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | N-(3-phenyl-1H-indazol-5-yl)piperidine-4-sulfonamide | 0.04 g | C1(=CC=CC=C1)C1=NNC2=CC=C(C=C12)NS(=O)(=O)C1CCNCC1 | C18H20N4O2S
